US08377931B2
Synthesis of 6-chloro-4-(3-methanesulfonyl-benzenesulfonyl)-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine
Similarly, but replacing 4-(6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester with 4-(6-tert-butyl-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester, and replacing 3-methylsulfonyl-benzenesulfonyl chloride with the appropriate aryl- or heteroaryl-sulfonyl chlorides followed by de-protection using trifluoracetic acid or hot hydrogen chloride in ethanol, the following was prepared:

reactant | 4-(6-tert-butyl-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2NCCOC21)C(C)(C)C | C21H33N3O3
reactant | 3-methylsulfonyl-benzenesulfonyl chloride | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-4-(3-methanesulfonyl-benzenesulfonyl)-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine | ClC=1C=C(C2=C(N(CCO2)S(=O)(=O)C2=CC(=CC=C2)S(=O)(=O)C)C1)N1CCNCC1 | C19H22ClN3O5S2
